US05104960
Synthesis of 2-(p-phenoxyphenyl)benzoxazole
A mixture of 1.20 g (5 mmoles) of 2-(p-nitrophenyl)benzoxazole, 0.80 g (8.5 mmoles) of phenol, 2 g of potassium carbonate and 15 ml of NMP is stirred and refluxed under nitrogen atmosphere for one hour. The title product is recovered from the resulting solution as described in Example 1. The recovery is 1.15 g (80.4 percent yield). The product has a melting point of 70° C.-71° C. The experiment is repeated using 2-4(p-fluorophenyl)benzoxazole as the reagent and the title product is obtained in 90 percent yield.

reactant | 2-(p-nitrophenyl)benzoxazole | 5 mmoles, 1.20 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8N2O3
reactant | phenol | 8.5 mmoles, 0.80 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
product | 2-(p-phenoxyphenyl)benzoxazole | 90 percent yield | O(C1=CC=CC=C1)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C19H13NO2
